US07015218B1
N-{3-Cyano-4-[4-(2-hydroxyethyl)piperazin-1-yl]phenyl}-1-(3,4-difluorophenyl)-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(3,4-difluorophenyl)-5-methylpyrazole-4-carboxylic acid (3 g) and 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile (3.7 g), the title compound (1.9 g) was obtained, melting point: 164–165° C.

reactant | 1-(3,4-difluorophenyl)-5-methylpyrazole-4-carboxylic acid | 3 g | FC=1C=C(C=CC1F)N1N=CC(=C1C)C(=O)O | C11H8F2N2O2
reactant | 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile | 3.7 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)CCO | C13H18N4O
product | N-{3-Cyano-4-[4-(2-hydroxyethyl)piperazin-1-yl]phenyl}-1-(3,4-difluorophenyl)-5-methylpyrazole-4-carboxamide | 1.9 g | C(#N)C=1C=C(C=CC1N1CCN(CC1)CCO)NC(=O)C=1C=NN(C1C)C1=CC(=C(C=C1)F)F | C24H24F2N6O2
